US06258812B1
1-(3-Chloroanilino)-4-(4-pyridylmethyl)phthalazine 1,8 hydrochloride
A mixture of 1.28 g (5 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine and 2.6 ml (25 mmol) 3-chloroaniline is stirred for 45 min at 90° C. under a nitrogen atmosphere. Excess 3-chloroaniline is then distlled off under HV at 60° C. and the residue distributed between 30 mldichloromethane and 20 ml of 20% aqueous potassium carbonate solution. The organic solution dried over anhydrous sodium sulfate is evaporated and the residue purified on silica gel by flash chromatography using acetate and acetate/methanol (20:1). The product-containing fractions are dissolved in 3 ml of methanol, and acidified with 2.3 ml 3N methanolic HCl, then ether is added while stirring until slight turbidity occurs, and the mixture is cooled to 0° C., resulting in the formation of a crystalline precipitate. After filtration, washing of the filter residue with ether, drying under HV (8 h, 110° C.) and equilibration for 65 h at 20° C. and in room atmosphere, the title compound is obtained with a water content of 7.3%; Smp. 233-236° C.; ESI-MS: (M+H)+=347.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 5 mmol, 1.28 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | 3-chloroaniline | 25 mmol, 2.6 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | potassium carbonate | 20 ml | C([O-])([O-])=O.[K+].[K+]
product | 1-(3-Chloroanilino)-4-(4-pyridylmethyl)phthalazine | ClC=1C=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=CC1 | C20H15ClN4
